US07501411B2
Step 2: 4-(5-(2-Oxo-1,2-dihydropyridin-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-8-ylamino)-N-(pyridin-3-ylmethyl)benzamide
A mixture of 4-[5-(2-methoxy-pyridin-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-8-ylamino]-N-pyridin-3-ylmethyl-benzamide (71.5 mg, 0.16 mmol) and pyridinium hydrochloride (91 mg, 0.79 mmol) in water (0.5 mL) in a sealed tube is heated at 150° C. for 25 minutes. After this time the solvent is removed in vacuo. The residue is chromatographed on silica gel, eluting with DCM followed by 98:2 and 90:10 DCM:NH3 (7M in MeOH), and the fractions containing the desired product are combined and evaporated. The title compound is isolated as a yellow solid (34.5 mg, 49%).

reactant | 4-[5-(2-methoxy-pyridin-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-8-ylamino]-N-pyridin-3-ylmethyl-benzamide | 0.16 mmol, 71.5 mg | COC1=NC=CC(=C1)C1=CN=C(C=2N1N=CN2)NC2=CC=C(C(=O)NCC=1C=NC=CC1)C=C2 | C24H20N8O2
reactant | pyridinium hydrochloride | 0.79 mmol, 91 mg | Cl.[NH+]1=CC=CC=C1
solvent | water | 0.5 mL | O | H2O
product | 4-(5-(2-Oxo-1,2-dihydropyridin-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-8-ylamino)-N-(pyridin-3-ylmethyl)benzamide | O=C1NC=CC(=C1)C1=CN=C(C=2N1N=CN2)NC2=CC=C(C(=O)NCC=1C=NC=CC1)C=C2 | C23H18N8O2
